US09315521B2
Phosphoryl trichloride (1 mL, 11 mmol) was added slowly to a 0° C. solution of DMF (22 mL), followed by 2-amino-N-methylacetamide hydrochloride (2.5 g, 20 mmol). The mixture was warmed at room temperature and stirred at 60° C. before phosphoryl trichloride (35 mL, 390 mmol) was added slowly. The solution was stirred at 90° C. overnight. After cooling to room temperature, the mixture was poured into ice/water (500 mL). Solid sodium carbonate was added until pH 6-7 was reached. The mixture was extracted with DCM (4×150 mL). The organic extracts were combined, dried over MgSO4, filtered, evaporated, and dried in vacuo. The residue was dissolved in water (10 mL) and 1,4-dioxane (20 mL) before potassium carbonate (10 g, 72.3 mmol) was added. The mixture was stirred at 60° C. for 4 hours. The mixture was evaporated to dryness. The residue was treated with 50% EtOAc/Et2O (250 mL). The solid was removed by filtration. The filtrate was recovered, evaporated, and dried in vacuo, affording 5-chloro-1-methyl-1H-imidazole-4-carbaldehyde (476 mg, 23% yield). The product was used without further purification.

reactant | Phosphoryl trichloride | 11 mmol, 1 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-amino-N-methylacetamide hydrochloride | 20 mmol, 2.5 g | Cl.NCC(=O)NC
reactant | phosphoryl trichloride | 390 mmol, 35 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium carbonate | 72.3 mmol, 10 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | DMF | 22 mL | CN(C)C=O | C3H7NO
product | 5-chloro-1-methyl-1H-imidazole-4-carbaldehyde | 476 mg, 23% yield | ClC1=C(N=CN1C)C=O | C5H5ClN2O
